US07220760B2
To a mixture of 4-(acetyl-cyclopropyl-amino)-1-benzyl-quinolinium bromide (9.6 g) in tetrahydrofuran (200 ml), under nitrogen and under cooling at 0° C., a solution of methyl magnesium chloride 1 Mol/l (12 ml) was added during 15 minutes. After 2 hours, a solution of ammonium chloride in methanol (100 ml) was added. The solvent was removed under reduce pressure and then washed with dichloromethane and water. The organic layer was separated and the solvent was removed under reduce pressure. The crude compound was purified by flash chromatography on silicagel with an eluent of dichloromethane/methanol (98/2) to give the N-(1-benzyl-2-methyl-1,2-dihydro-quinolin-4-yl)-N-cyclopropyl-acetamide (7.9 g, 98.6% yield).

reactant | 4-(acetyl-cyclopropyl-amino)-1-benzyl-quinolinium bromide | 9.6 g | [Br-].C(C)(=O)N(C1=CC=[N+](C2=CC=CC=C12)CC1=CC=CC=C1)C1CC1
reactant | methyl magnesium chloride | 1 Mol/l, 12 ml | C[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
product | N-(1-benzyl-2-methyl-1,2-dihydro-quinolin-4-yl)-N-cyclopropyl-acetamide | 7.9 g, 98.6% yield | C(C1=CC=CC=C1)N1C(C=C(C2=CC=CC=C12)N(C(C)=O)C1CC1)C | C22H24N2O
